US06750219B1
Intermediate 2: t-Butyl 3-amino-(2S)-t-butoxypropionate
The following reaction was carried out in a Fischer-Porter tube. Dimethoxyethane (76 ml) and 3.2 ml of concentrated sulfuric acid were added in that order to 4.0 g of 3-amino-(2S)-hydroxypropionic acid (L-isoserine), and the mixture was then cooled to −78° C. Isobutylene (38 ml) was added thereto, and the tube was sealed, followed by shaking at room temperature for 48 hr. The tube was then slowly opened, and isobutylene was removed by distillation at room temperature. The reaction mixture was then added dropwise to 128 ml of ice water, and the mixture was washed twice with 250 ml of ether, was cooled to 0° C., and was then neutralized with a 6 N aqueous sodium hydroxide solution. Further, solid sodium chloride was added to prepare a saturated solution, and the mixture was extracted four times with 100 ml of chloroform. The chloroform layers were combined, and the combined chloroform layers were dried over anhydrous sodium sulfate and were then concentrated under the reduced pressure to give 640 mg of a yellow oil. The yellow oil was purified by column chromatography on silica gel (64 g, chloroform-methanol-concentrated aqueous ammonia=20:1:0.05→10:1:0.1) to give 191 mg of intermediate 1 and 430 mg of intermediate 2.

reactant | sulfuric acid | 3.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-amino-(2S)-hydroxypropionic acid | 4.0 g | NC[C@@H](C(=O)O)O | C3H7NO3
reactant | Isobutylene | 38 ml | CC(C)=C | C4H8
solvent | Dimethoxyethane | 76 ml | C(OC)COC | C4H10O2
product | t-Butyl 3-amino-(2S)-t-butoxypropionate | 640 mg | NC[C@@H](C(=O)OC(C)(C)C)OC(C)(C)C | C11H23NO3
